US09428528B2
Step 1 Preparation of N-((5-bromopyridin-2-yl)methyl)ethanesulfonamide
To a solution of (5-bromopyridin-2-yl)methanamine (250 mg, 1.34 mmol) in CH2Cl2 (3 mL) is added ethyl sulfonyl chloride (95 mg, 0.74 mmol) followed by triethylamine (0.3 mL, 2.0 mmol). The reaction is stirred at room temperature for 1.5 hours. The reaction is directly injected onto a 12 g silica gel column and chromatographed eluting from 100% hexanes to 50:50 ethylacetate:hexanes to afford the title compound (158 mg): m/z (CI) M+H 279+281.

reactant | (5-bromopyridin-2-yl)methanamine | 1.34 mmol, 250 mg | BrC=1C=CC(=NC1)CN | C6H7BrN2
reactant | ethyl sulfonyl chloride | 0.74 mmol, 95 mg | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | triethylamine | 2.0 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | N-((5-bromopyridin-2-yl)methyl)ethanesulfonamide | 158 mg | BrC=1C=CC(=NC1)CNS(=O)(=O)CC | C8H11BrN2O2S
